US04609670
1-Methyl-3-[2-(2,4-dimethylphenyl)-2-oxoethyl]-1H-imidazolium bromide
A solution of 4.76 g (0.021 mol) of 1-bromo-2-(2,4-dimethylphenyl)-2-oxoethane and 1.76 g (0.021 mol) of 1-methylimidazole in 50 ml of diethyl ether was stirred at room temperature for approximately 21 hours. The reaction solvent was decanted and the residue was washed with diethyl ether. The residue was recrystallized from acetonitrile/ethyl acetate to afford 3.32 g of the title product as white crystals. (51% yield) mp=179°-181° C.

reactant | 1-bromo-2-(2,4-dimethylphenyl)-2-oxoethane | 0.021 mol, 4.76 g | BrCC(=O)C1=C(C=C(C=C1)C)C | C10H11BrO
reactant | 1-methylimidazole | 0.021 mol, 1.76 g | CN1C=NC=C1 | C4H6N2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1-Methyl-3-[2-(2,4-dimethylphenyl)-2-oxoethyl]-1H-imidazolium bromide | 3.32 g, 51% yield | [Br-].C[NH+]1CN(C=C1)CC(=O)C1=C(C=C(C=C1)C)C | InChI=1S/C14H18N2O.BrH/c1-11-4-5-13(12(2)8-11)14(17)9-16-7-6-15(3)10-16;/h4-8H,9-10H2,1-3H3;1H
